US07220759B2
(2R,4S)-4-Methylpyrrolidine-2-carboxylic acid described in J. Chem. Soc. C, pp. 514–522 (1971) is reacted with di-tert-butyl dicarbonate to give (2R,4S)-1-tert-butoxycarbonyl-4-methylpyrrolidine-2-carboxylic acid. (2R,4S)-1-tert-Butoxycarbonyl-4-methylpyrrolidine-2-carboxylic acid is reacted with methyl iodide in the presence of potassium carbonate in acetonitrile solvent to give methyl (2R,4S)-1-tert-butoxycarbonyl-4-methylpyrrolidine-2-carboxylate. Methyl (2R,4S)-1-tert-butoxycarbonyl-4-methylpyrrolidine-2-carboxylate is reduced with lithium borohydride to give (2R,4S)-1-tert-butoxycarbonyl-2-hydroxymethyl-4-methylpyrrolidine. (2R,4S)-1-tert-Butoxycarbonyl-2-hydroxymethyl-4-methylpyrrolidine is reacted with 4N hydrogen chloride-dioxane to give (2R,4S)-2-hydroxymethyl-4-methylpyrrolidine hydrochloride. (2R,4S)-2-Hydroxymethyl-4-methylpyrrolidine hydrochloride is reacted with acrylonitrile to give 3-[(2R,4S)-2-hydroxymethyl-4-methylpyrrolidin-1-yl]propionitrile. In the same manner as in Example 1b (e) and using 3-[(2R,4S)-2-hydroxymethyl-4-methylpyrrolidin-1-yl]propionitrile and N,N-diethyl-2,3-dimethylbenzamide, 3-(2-[(2R,4S)-2-hydroxymethyl-4-methylpyrrolidin-1-yl]ethyl)-5-methyl-2H-isoquinolin-1-one is obtained.

reactant | 3-[(2R,4S)-2-hydroxymethyl-4-methylpyrrolidin-1-yl]propionitrile | OC[C@@H]1N(C[C@H](C1)C)CCC#N | C9H16N2O
reactant | N,N-diethyl-2,3-dimethylbenzamide | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
product | 3-(2-[(2R,4S)-2-hydroxymethyl-4-methylpyrrolidin-1-yl]ethyl)-5-methyl-2H-isoquinolin-1-one | OC[C@@H]1N(C[C@H](C1)C)CCC=1NC(C2=CC=CC(=C2C1)C)=O | C18H24N2O2
